US05677293
EXAMPLE 15 Preparation of (3β)-17-(3-furanyl)-androsta-5,16-dien-3-ol
Combine (3β,17β)-3β,17β)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-17-(3-furanyl)-androst-5-en-17-ol (2.50 g, 5.31 mmol) prepared as in Scheme III, step B above, with 4N hydrogen chloride in 1,4-dioxane (35 mL) under an atmosphere of nitrogen. Stir the reaction for 40 minutes at room temperature and then dilute the reaction with methylene chloride (150 mL). Wash the organic layer with water (35 mL), saturated sodium bicarbonate (2×50 mL), brine (30 mL), dry over anhydrous magnesium sulfate, filter and concentrate under vacuum. Purify the residue by flash chromatography (ethyl acetate/hexane, 3:7, silica gel) to provide 1.05 g of product as a white solid. Recrystallize a portion of the product from aqueous acetone and dry under high vacuum over refluxing ethanol for 4 hours to provide the title compound as a white crystallize solid, Rf =0.43 (ethyl acetate/hexane, 35:65, silica gel), mp 186°-189° C.; 1H NMR (CDCl3) δ7.47 (broad singlet, 1H), 7.36 (t, 1H, J=1.7 Hz), 6.48 (dd, 1H, J=0.8, 1.8 Hz), 5.83 (dd, 1H, J=1.9, 3.2 Hz), 5.41-5.37 (m, 1H), 3.60-3.48 (m, 1H), 1.07 (s, 3H), 0.96 (s, 3H); MS (CI/CH4) m/z (rel. intensity) 339 (MH+, 68), 338 (55), 337 (28), 321 (100); HRMS C23H31O2 (MH+) calcd 339.2324, observed 339.2304.

reactant | 3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-17-(3-furanyl)-androst-5-en-17-ol | 5.31 mmol, 2.50 g | CC(C)(C)[Si](OC1CC2=CC[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)C)(O)C1=COC=C1)(C)C | C29H46O3Si
reactant | hydrogen chloride | 4N | Cl | ClH
reactant | methylene chloride | 150 mL | C(Cl)Cl | CH2Cl2
solvent | 1,4-dioxane | 35 mL | O1CCOCC1 | C4H8O2
product | (3β)-17-(3-furanyl)-androsta-5,16-dien-3-ol | 1.05 g | O1C=C(C=C1)C=1[C@]2(C)[C@@H](CC1)[C@@H]1CC=C3C[C@H](CC[C@]3(C)[C@H]1CC2)O | C23H30O2
